### PR TITLE
[Merged by Bors] - feat: add supporting material for the counting function of value distribution theory

### PR DESCRIPTION
**Pull request by kebekus**
Establish an alternate formulation for finsum that appears in the definition of the counting function. This supports claims made in the docstring with a formal statement.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 1]
```diff
@@ -92,6 +93,38 @@ noncomputable def logCounting {E : Type*} [NormedAddCommGroup E] [ProperSpace E]
...
+  · simp_all only [ne_eq, Function.mem_support, Decidable.not_not, Int.cast_zero, zero_mul,
+      add_zero]
+    apply finsum_congr
+    intro x
+    by_cases h₁ : x = 0
+    · simp_all
+    · simp only [log_mul hR (inv_ne_zero (norm_ne_zero_iff.mpr h₁)), log_inv, mul_eq_mul_left_iff,
+        Int.cast_eq_zero]
+      left
+      ring
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean:126]: 🏌️ 
```suggestion
lemma countingFunction_finsum_eq_finsum_add {R : ℝ} {D : ℂ → ℤ} (hR : R ≠ 0)
    (hD : D.support.Finite) :
    ∑ᶠ u, D u * (log R - log ‖u‖) = ∑ᶠ u, D u * log (R * ‖u‖⁻¹) + D 0 * log R := by
  by_cases h : 0 ∈ D.support
  · have {g : ℂ → ℝ} : (fun u ↦ D u * g u).support ⊆ hD.toFinset := fun x ↦ by
      simp +contextual
    simp only [finsum_eq_sum_of_support_subset _ this,
      Finset.sum_eq_sum_diff_singleton_add ((Set.Finite.mem_toFinset hD).mpr h), norm_zero,
      log_zero, sub_zero, inv_zero, mul_zero, add_zero, add_left_inj]
    refine Finset.sum_congr rfl fun x hx ↦ ?_
    simp only [Finset.mem_sdiff, Finset.notMem_singleton] at hx
    simp [log_mul hR (inv_ne_zero (norm_ne_zero_iff.mpr hx.2)), sub_eq_add_neg]
  · simp_all only [mem_support, Decidable.not_not, Int.cast_zero, zero_mul, add_zero]
    refine finsum_congr fun x ↦ ?_
    by_cases h₁ : x = 0
    · simp_all
    · simp [log_mul hR (inv_ne_zero (norm_ne_zero_iff.mpr h₁)), sub_eq_add_neg]
```

**Review by loefflerd — APPROVED** [review]
Looks great! I golfed it a bit (mostly pretty superficial). 

maintainer delegate
